* D:\Altium Projects\ECE295ProjectFiles\M0\LTspice\VReg.asc
R1 Vout V- 4959
R2 V- 0 5041
R3 Vin Vref 330
XU1 Vref V- Vin 0 Vop.out LM741
Q1 Vin Vop.out Vout 0 TIP29C
D1 0 Vref 1N5222
R4 Vout 0 300
V1 Vin 0 5
.model D D
.lib C:\Users\18701\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\18701\AppData\Local\LTspice\lib\cmp\standard.bjt
.model 1N5222 ako:1N750 bv=2.5
.model TIP29C ako:NPN
* .tran 5
* .op
.dc V1 0 30 1
.lib LM741.lib
.backanno
.end
